US08133882B2
To a 1.0 ml THF-1.0 ml methanol mixed solution of 130 mg of N-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]-2-[(4R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]acetamide was added 0.3 ml of 1 M hydrochloric acid, followed by overnight stirring at room temperature. Then, 0.8 ml of aqueous 1M sodium hydroxide solution was added, followed by overnight stirring at room temperature. The resulting reaction mixture was neutralized with 1 M hydrochloric acid, and then the insoluble materials were collected by filtration and purified by silica gel column chromatography to obtain 11 mg of (2R)-4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-2-hydroxy-4-oxobutanoic acid.

reactant | N-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]-2-[(4R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]acetamide | 130 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)NC(C[C@H]1OC(OC1=O)(C)C)=O)=O)F | C27H34FN3O5
reactant | hydrochloric acid | 1 M, 0.3 ml | Cl | ClH
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
product | (2R)-4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-2-hydroxy-4-oxobutanoic acid | 11 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)NC(C[C@H](C(=O)O)O)=O)=O)F | C24H30FN3O5
